US08377704B2
A mixture containing 5 ng of tetramethylammonium fluoride and 1 mg of bis(4-methoxypheny)iodonium trifluoroacetate was dissolved in 0.5 mL of benzene and heated to 140° C. for 15 minutes. A 5 μL aliquot of this sample was injected directly into the injector port (250° C., 5:1 split) of a Waters GC-T GC-MS equipped with a JW Scientific (122-5532) DB5-MS (30 meters×0.25 mm) gas chromatography column to record the spectra shown in FIG. 1. The concentration of 4-fluoroanisole produced was determined by comparison to a standard curve (FIG. 2). The transfer of fluoride to the arene under these conditions was typically 85±10%.

reactant | tetramethylammonium fluoride | 5 ng | [F-].C[N+](C)(C)C
reactant | bis(4-methoxypheny)iodonium trifluoroacetate | 1 mg | FC(C(=O)[O-])(F)F.COC1=CC=C(C=C1)[I+]C1=CC=C(C=C1)OC
solvent | benzene | 0.5 mL | C1=CC=CC=C1 | C6H6
product | 4-fluoroanisole | FC1=CC=C(C=C1)OC | C7H7FO
